US04929606
15.3 g of 1,3,3-trimethyl-6-aza-bicyclo[3,2,1]octane (0.15 mol) are introduced into 50 ml of diethyl ether, and 15.1 g of ethyl acrylate are gradually added thereto while stirring. A clear solution forms with a slight increase in temperature. After standing overnight at room temperature, the ether is distilled off. The oil which remains is distilled in vacuo to give 3-(1,3,3-trimethyl-6-aza-bicyclo[3,2,1]oct-6-yl)-propionic acid ethyl ester, b.p. 77°/0.013 mbar.

reactant | 1,3,3-trimethyl-6-aza-bicyclo[3,2,1]octane | 0.15 mol, 15.3 g | CC12CC(CC(NC1)C2)(C)C | C10H19N
reactant | ethyl acrylate | 15.1 g | C(C=C)(=O)OCC | C5H8O2
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
product | 3-(1,3,3-trimethyl-6-aza-bicyclo[3,2,1]oct-6-yl)-propionic acid ethyl ester | C(C)OC(CCN1C2CC(CC(C1)(C2)C)(C)C)=O | C15H27NO2
